US05977141
(S)-3-(4-Hydroxy-phenyl)-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid
To a room temperature, stirred mixture of (S)-3-(4-benzyloxy-phenyl)-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid (0.033 g, 0.000058 mol) in thioanisole (0.34 mL) was added trifluoroacetic acid (1 mL), and the mixture was stirred for 18 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried (Na2SO4) and rotary-evaporated under reduced pressure to remove volatiles. The resulting yellow solution was chromatographed on silica gel (5.5 g) eluting with dichloromethane (10×5 mL) followed by dichloromethane-methanol (14:1). Fractions containing product were rotary-evaporated. The residue was suspended in water and stirred to give the title compound as an off-white solid; yield 0.0079 g (28%), mp=108-110° C.

reactant | (S)-3-(4-benzyloxy-phenyl)-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid | 0.000058 mol, 0.033 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C33H34N2O5S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | thioanisole | 0.34 mL | C1(=CC=CC=C1)SC | C7H8S
product | (S)-3-(4-Hydroxy-phenyl)-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid | OC1=CC=C(C=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C26H28N2O5S
